US09034900B2
Step 2: 2-methyl-4-[5-methylsulfonyl-2-(oxolan-3-yloxy)phenyl]isoquinolin-1-one
To a solution of oxolan-3-ol (175.0 mg, 1.99 mmol) in anhydrous DMF (3 mL) was added NaH (66.0 mg, 1.65 mmol, 60% in mineral oil) at 0° C. and then stirred at 0° C. for 0.5 hrs. 4-(2-fluoro-5-methylsulfonylphenyl)-2-methylisoquinolin-1-one (110.0 mg, 0.33 mmol) was added. The mixture was stirred at 0° C. for 0.5 h and then at r.t. for 3 hrs. It was then quenched with aqueous sat. NH4Cl (20 mL) and extracted with EA (20 mL×3). The combined organic layers were washed with brine (40 mL), dried over Na2SO4, and concentrated under reduced pressure to afford a crude product which was purified by prep-HPLC to give the title compound (62.0 mg, 39.7%) as a light yellow solid. 1H NMR (CDCl3, 400 MHz) δ 8.51 (d, J=7.6 Hz, 1H), 8.00 (dd, J1=8.8 Hz, J2=2.4 Hz, 1H), 7.89 (d, J=2.4 Hz, 1H), 7.58-7.51 (m, 2H), 7.11-7.03 (m, 3H), 5.01-4.98 (m, 1H), 3.97 (dd, J1=10.4 Hz, J2=4.8 Hz, 1H), 3.76-3.70 (m, 2H), 3.67 (s, 3H), 3.61-3.42 (m, 1H), 3.11 (s, 3H), 2.18-1.88 (m, 2H). LCMS (M+H)+=400.0 (M+1)+

reactant | oxolan-3-ol | 1.99 mmol, 175.0 mg | O1CC(CC1)O | C4H8O2
reactant | NaH | 1.65 mmol, 66.0 mg | [H-].[Na+]
reactant | 4-(2-fluoro-5-methylsulfonylphenyl)-2-methylisoquinolin-1-one | 0.33 mmol, 110.0 mg | FC1=C(C=C(C=C1)S(=O)(=O)C)C1=CN(C(C2=CC=CC=C12)=O)C | C17H14FNO3S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-methyl-4-[5-methylsulfonyl-2-(oxolan-3-yloxy)phenyl]isoquinolin-1-one | 62.0 mg, 39.7% | CN1C(C2=CC=CC=C2C(=C1)C1=C(C=CC(=C1)S(=O)(=O)C)OC1COCC1)=O | C21H21NO5S
